US07842685B2
A mixture of 2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)-6-(1-phenylcyclopropyl)-benzo[d]thiazole (0.061 g, 0.14 mmol) and 5N HCl (3.50 mL, 0.14 mmol) in THF (7.0 mL) was heated to 70° C. for 3 h. The reaction was cooled and concentrated in vacuo, placed in an ice bath, and basified with 5 N aq. NaOH. The solid was collected by filtration, rinsed with water and MeOH, and was dried in vacuo to afford 3-fluoro-4-(6-(1-phenylcyclopropyl)-benzo[d]thiazol-2-yl)benzaldehyde. MS (ESI) m/z: Calculated: 373.1; Observed: 374.0 (M++1).

reactant | 2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)-6-(1-phenylcyclopropyl)-benzo[d]thiazole | 0.14 mmol, 0.061 g | O1C(OCCC1)C1=CC(=C(C=C1)C=1SC2=C(N1)C=CC(=C2)C2(CC2)C2=CC=CC=C2)F | C26H22FNO2S
reactant | HCl | 0.14 mmol, 5N, 3.50 mL | Cl | ClH
solvent | THF | 7.0 mL | C1CCOC1 | C4H8O
product | 3-fluoro-4-(6-(1-phenylcyclopropyl)-benzo[d]thiazol-2-yl)benzaldehyde | FC=1C=C(C=O)C=CC1C=1SC2=C(N1)C=CC(=C2)C2(CC2)C2=CC=CC=C2 | C23H16FNOS
